### PR TITLE
[Merged by Bors] - feat: describe posLog in terms of circle averages

### PR DESCRIPTION
**Pull request by kebekus**
If `a` is any complex number of norm one, establish by direct computation that the circle average `circleAverage (log ‖· - a‖) 0 1` vanishes.

As soon as the mean value theorem for harmonic functions becomes available, this result will be extended to arbitrary complex numbers `a`, showing that the circle average equals the positive part of the logarithm, `circleAverage (log ‖· - a‖) 0 1 = log⁺ ‖a‖`. This result, in turn, is a major ingredient in the proof of Jensen's formula in complex analysis.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+open Filter Interval intervalIntegral MeasureTheory Real
+
+variable {a : ℂ}
+
+/-!
+## Computing `circleAverage (log ‖· - a‖) 0 1` in case where `‖a‖ = 1`.
+-/
+
+/--
+If `a : ℂ` has norm one, then the circle average `circleAverage (log ‖· - a‖) 0 1` vanishes.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean:75]: Could you add in the docstring a pointer to the lemma saying that this function is circle-integrable? This will probably be needed often when using the lemma, so better help the user here.

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean [hunk 2]
```diff
@@ -0,0 +1,97 @@
...
+-/
+@[simp]
+theorem circleAverage_log_norm_id_sub_const₁ (h : ‖a‖ = 1) :
+    circleAverage (log ‖· - a‖) 0 1 = 0 := by
+  simp only [circleAverage, mul_inv_rev, smul_eq_mul, mul_eq_zero, inv_eq_zero, OfNat.ofNat_ne_zero,
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean:83]: As the argument is not completely trivial, could you sketch it in a few lines in a comment at the start of the proof?

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean [hunk 3]
```diff
@@ -0,0 +1,97 @@
...
+    or_false]
+  right
+  obtain ⟨ζ, hζ⟩ := (by simp [Set.exists_range_iff.1, h] : ∃ ζ, a⁻¹ = circleMap 0 1 ζ)
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean]:
```suggestion
  obtain ⟨ζ, hζ⟩ : ∃ ζ, a⁻¹ = circleMap 0 1 ζ := by simp [Set.exists_range_iff.1, h]
```
It's the same, but more readable

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean [hunk 4]
```diff
@@ -0,0 +1,97 @@
...
+  _ = ∫ x in 0..(2 * π), log ‖circleMap 0 1 (ζ + x) - (circleMap 0 1 ζ) * a‖ := by
+    simp [mul_sub, circleMap, add_mul, Complex.exp_add]
+  _ = ∫ x in 0..(2 * π), log ‖circleMap 0 1 (ζ + x) - 1‖ := by
+    simp [← hζ, inv_mul_cancel₀ (by aesop : a ≠ 0)]
+  _ = ∫ x in 0..(2 * π), log ‖circleMap 0 1 x - 1‖ := by
+    have : Function.Periodic (log ‖circleMap 0 1 · - 1‖) (2 * π) :=
+      fun x ↦ by simp [periodic_circleMap 0 1 x]
+    have := this.intervalIntegral_add_eq (t := 0) (s := ζ)
+    simp_all [integral_comp_add_left (log ‖circleMap 0 1 · - 1‖)]
+  _ = ∫ x in 0..(2 * π), log (4 * sin (x / 2) ^ 2) / 2 := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean:99]: Could you maybe extract the value of this integral in a lemma before this one, to separate clearly what happens in the complex plane and what is just an integral computation?

**Review by sgouezel — COMMENTED** [review]
Looks good, thanks!

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean:75]: Implemented.

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean:99]: Implemented as suggested.

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean:83]: Done.

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+variable {a : ℂ}
+
+/-!
+## Circle Integrability
+-/
+
+/--
+If `a` is any complex number, the function `(log ‖· - a‖)` is circle integrable over every circle.
+-/
+lemma circleIntegrability_log_norm_id_sub_const {c : ℂ} (r : ℝ) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean]:
```suggestion
lemma circleIntegrable_log_norm_sub_const {c : ℂ} (r : ℝ) :
```

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+  _ = 0 := by
+    simp only [intervalIntegral.integral_const, sub_zero, smul_eq_mul, integral_log_sin_zero_pi,
+      (by norm_num : (4 : ℝ) = 2 * 2), log_mul two_ne_zero two_ne_zero]
+    ring
+
+/--
+If `a : ℂ` has norm one, then the circle average `circleAverage (log ‖· - a‖) 0 1` vanishes.
+-/
+@[simp]
+theorem circleAverage_log_norm_id_sub_const₁ (h : ‖a‖ = 1) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean]:
```suggestion
theorem circleAverage_log_norm_sub_const₁ (h : ‖a‖ = 1) :
```

File: Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+lemma circleIntegrability_log_norm_id_sub_const {c : ℂ} (r : ℝ) :
+    CircleIntegrable (log ‖· - a‖) c r :=
+  circleIntegrable_log_norm_meromorphicOn (fun z hz ↦ by fun_prop)
+
+/-!
+## Computing `circleAverage (log ‖· - a‖) 0 1` in case where `‖a‖ = 1`.
+-/
+
+-- Integral computation used in `circleAverage_log_norm_id_sub_const₁`
+private lemma circleAverage_log_norm_id_sub_const₁_integral :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean]:
```suggestion
private lemma circleAverage_log_norm_sub_const₁_integral :
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by kebekus** [comment]
@sgouezel Thanks!

bors r+
